US09085555B2
2-Fluoro-3-(3-fluoro-pyridin-2-yl)-phenylamine
was prepared by using the same procedures as described for the preparation of 3-(3-chloro-pyridin-2-yl)-2-fluoro-phenylamine in Scheme C6, starting from 2-bromo-3-fluoropyridine [40273-45-8] and 2-fluoro-3-nitrophenylboronic acid [1150114-29-6]. MS (LC-MS): 207 [M+H]+; tR (HPLC conditions k): 2.39 min.

reactant | 3-(3-chloro-pyridin-2-yl)-2-fluoro-phenylamine | ClC=1C(=NC=CC1)C=1C(=C(C=CC1)N)F | C11H8ClFN2
reactant | 2-bromo-3-fluoropyridine | BrC1=NC=CC=C1F | C5H3BrFN
reactant | 2-fluoro-3-nitrophenylboronic acid | FC1=C(C=CC=C1[N+](=O)[O-])B(O)O | C6H5BFNO4
product | 2-Fluoro-3-(3-fluoro-pyridin-2-yl)-phenylamine | FC1=C(C=CC=C1C1=NC=CC=C1F)N | C11H8F2N2
